US04801616
5-[3-Hydroxy-4-(2-methoxybenzoyl)-2-propylphenoxy]pentanenitrile
Five grams of 5-[3-hydroxy-4-(2-hydroxybenzoyl)-2-propylphenoxy]pentanenitrile, 11.7 g of potassium carbonate, and 1.42 ml of dimethyl sulfate in 50 ml of 2-butanone were stirred at reflux for approximately 18 hours. After cooling to 25° C., the mixture was partitioned between ethyl acetate and water. The organic layer was separated, washed with one volume of water and one volume of a saturated sodium chloride solution, dried over magnesium sulfate, filtered, and evaporated to dryness leaving a yellow oil which crystallized on standing. Recrystallization from ethyl acetate/hexane provided 4.38 g of the desired title product, m.p. 85°-86.5° C.

reactant | 5-[3-hydroxy-4-(2-hydroxybenzoyl)-2-propylphenoxy]pentanenitrile | Five grams | OC=1C(=C(OCCCCC#N)C=CC1C(C1=C(C=CC=C1)O)=O)CCC | C21H23NO4
reactant | potassium carbonate | 11.7 g | C([O-])([O-])=O.[K+].[K+]
reactant | dimethyl sulfate | 1.42 ml | S(=O)(=O)(OC)OC | C2H6O4S
solvent | 2-butanone | 50 ml | CC(CC)=O | C4H8O
product | 5-[3-Hydroxy-4-(2-methoxybenzoyl)-2-propylphenoxy]pentanenitrile | 4.38 g | OC=1C(=C(OCCCCC#N)C=CC1C(C1=C(C=CC=C1)OC)=O)CCC | C22H25NO4
